US09290485B2
d) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-5-((1-oxoisoquinolin-2(1H)-yl)methyl)furan-2-carboxamide
To a solution of tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate (41.1 mg, 0.163 mmol) in THF (5 ml) were added collidine (0.022 ml, 0.163 mmol), 5-((1-oxoisoquinolin-2(1H)-yl)methyl)furan-2-carboxylic acid (44.0 mg, 0.163 mmol) and HATU (81.0 mg, 0.212 mmol). After stirring for 18 h at rt, all volatiles were removed in vacuo. The crude intermediate was purified by column chromatography (CombiFlash Companion, 12 g SiO2, heptane to EA), dissolved in DCM (1 ml) and TFA (1 ml), kept for 1 h at rt, and concentrated. Purification by preparative HPLC (Waters Sunfire Prep C18 OBD 5 um, 100×19 mm, A: H2O+0.1% TFA, B: MeCN+0.1% TFA, 6-36% B in 10 min, 30 ml/min, rt) afforded the title compound. 1H-NMR (DMSO-d6, 400 MHz): 2.37 (s, 3H), 4.28 (d, 2H), 5.23 (s, 2H), 6.45 (d, 1H), 6.62 (s, 1H), 6.68 (d, 1H), 7.06 (d, 1H), 7.49-7.59 (m, 4H), 7.65-7.76 (m, 2H), 8.21 (d, 1H), 8.52 (t, 1H), 13.33 (s, 1H). LCMS RtM=1.50 min, [M+H]+=403.3.

reactant | tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate | 0.163 mmol, 41.1 mg | NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H21N3O2
reactant | collidine | 0.163 mmol, 0.022 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | 5-((1-oxoisoquinolin-2(1H)-yl)methyl)furan-2-carboxylic acid | 0.163 mmol, 44.0 mg | O=C1N(C=CC2=CC=CC=C12)CC1=CC=C(O1)C(=O)O | C15H11NO4
reactant | HATU | 0.212 mmol, 81.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-5-((1-oxoisoquinolin-2(1H)-yl)methyl)furan-2-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1OC(=CC1)CN1C(C2=CC=CC=C2C=C1)=O)C | C23H22N4O3
